US06794517B2
3b) (S)-N-Formyl-β-cyclopropylalanine tert-butyl ester
A mixture of 10 g (54 mmol) of (S)-β-cyclopropylalanine tert-butyl ester and 4.7 g (55.2 mmol) of cyanomethyl formate in 100 mL of dichloromethane was stirred at room temperature overnight. The residue obtained after removal of the solvent in vacuo was distilled in vacuo. Yield: 8.8 g (76%). Boiling point 120° C./40 Pa (0.3 torr).

reactant | (S)-β-cyclopropylalanine tert-butyl ester | 54 mmol, 10 g | C(C)(C)(C)OC([C@@H](N)CC1CC1)=O | C10H19NO2
reactant | cyanomethyl formate | 55.2 mmol, 4.7 g | C(=O)OCC#N | C3H3NO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-N-Formyl-β-cyclopropylalanine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC=O)CC1CC1)=O | C11H19NO3
